US05491148
2,3-dimethylbenzoic acid (5.0 g; 33.3 mmol), oxalyl chloride (40.0 mmol, 3.5 mL) and dimethylformamide (0.1 mL) were dissolved in methylene chloride (100 mL). The mixture was stirred at room temperature for 1 hour and then concentrated under reduced pressure. A solution of the concentrate in toluene (100 mL) was added dropwise to a stirred solution of (RS)-3-amino-1-azabicyclo[2.2.2]octane dihydrochloride (7.0 g; 35 mmol)in toluene (50 mL) and NaOH (2.0N, 50 mL) at 0° C. The reaction mixture was maintained at 0° C. and stirred for 30 minutes. The aqueous layer was extracted with of toluene (2×50 mL) and the combined organic layers dried over magnesium sulfate. Removal of the solvent under reduced pressure gave (RS)-N-(1-azabicyclo[2.2.2]oct-3-yl)-2,3-dimethylbenzamide as a white solid (5.5 g, 25.4 mmol), m.p. 160°-161° C. The hydrochloride salt is prepared from ethanol-hydrogen chloride.

reactant | 2,3-dimethylbenzoic acid | 33.3 mmol, 5.0 g | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | oxalyl chloride | 40.0 mmol, 3.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
reactant | (RS)-3-amino-1-azabicyclo[2.2.2]octane dihydrochloride | 35 mmol, 7.0 g | Cl.Cl.NC1CN2CCC1CC2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 2.0N, 50 mL | [OH-].[Na+]
product | (RS)-N-(1-azabicyclo[2.2.2]oct-3-yl)-2,3-dimethylbenzamide | 25.4 mmol, 5.5 g | N12CC(C(CC1)CC2)NC(C2=C(C(=CC=C2)C)C)=O | C16H22N2O
